US06627651B1
Into a mixed solution of ethyl 1-methyl-6-(4-methylphenyl)-1H-indole-2-carboxylate (0.7 g) in ethanol/THF (20/10 ml) was added at room temperature a 2 N aqueous solution of sodium hydroxide (1.5 ml), and the resulting mixture was stirred for 24 hours. After addition of 1 N hydrochloric acid (5 ml), the reaction mixture was concentrated under reduced pressure. Water was added to the residue, and the resulting mixture was extracted with ethyl acetate. The organic layer was washed with an aqueous saturated solution of sodium chloride and was dried with magnesium sulfate. After concentration under reduced pressure, the precipitated crystals were collected by filtration. The crystals were washed with hexane to obtain 1-methyl-6-(4-methylphenyl)-1H-indole-2-carboxylic acid (600 mg) as colorless crystals.

reactant | ethyl 1-methyl-6-(4-methylphenyl)-1H-indole-2-carboxylate | 0.7 g | CN1C(=CC2=CC=C(C=C12)C1=CC=C(C=C1)C)C(=O)OCC | C19H19NO2
reactant | sodium hydroxide | 1.5 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 5 ml | Cl | ClH
solvent | ethanol THF | 10 ml | C(C)O.C1CCOC1
product | 1-methyl-6-(4-methylphenyl)-1H-indole-2-carboxylic acid | 600 mg | CN1C(=CC2=CC=C(C=C12)C1=CC=C(C=C1)C)C(=O)O | C17H15NO2
